US05322753
A mixture of 54.6 g (0.2 mol) of 4-diphenylaminobenzaldehyde, 51.6 g (0.2 mol) of diethyl-4-methoxybenzyl phosphonate, and 250 ml of dimethylformamide was placed in a 500 ml four-neck flask. 57.9 g of 28% sodium methylate was added dropwise to the above mixture with stirring at room temperature over a period of 15 minutes. Thus, the reaction was carried out at 50° to 60° C. for five hours. The thus obtained reaction mixture was diluted with 500 ml of water, and then made acid with the addition of acetic acid. Then the mixture was filtrated to obtain a wet cake. The thus obtained wet cake was washed with 100 ml of methanol three times, and recrystallized from a mixed solvent of ethanol and dioxane, whereby 46.2 g of 4-diphenylamino-4'-methoxystilbene was obtained as yellow crystals in the form of needles in a yield of 61.3%. The melting point of the obtained compound was 170° to 171.5° C.

reactant | 4-diphenylaminobenzaldehyde | 0.2 mol, 54.6 g | C1(=CC=CC=C1)N(C1=CC=C(C=O)C=C1)C1=CC=CC=C1 | C19H15NO
reactant | diethyl-4-methoxybenzyl phosphonate | 0.2 mol, 51.6 g | P(OC(C1=CC=C(C=C1)OC)(CC)CC)([O-])=O
reactant | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
reactant | sodium methylate | 57.9 g | C[O-].[Na+]
solvent | water | 500 ml | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-diphenylamino-4'-methoxystilbene | 46.2 g, yield of 61.3% | C1(=CC=CC=C1)N(C1=CC=C(C=C1)C=CC1=CC=C(C=C1)OC)C1=CC=CC=C1 | C27H23NO
